US08440689B2
A. tert-Butyl(cyclohex-2-enyloxy)dimethylsilane
Pyridine (4.74 g, 60 mmol) and tert-butyldimethylsilyl chloride (4.83 g, 32 mmol) were added to a solution of cyclohex-2-enol (1.96 g, 20 mmol) in DCM (40 mL). The reaction mixture was stirred at RT overnight. The mixture was concentrated and the residue was dispersed in EtOAc and water. The organic phase was separated and washed with brine, dried over anhydrous Na2SO4, concentrated, and purified by silica flash chromatography eluting with EtOAc and petroleum ether (5-10% EtOAc) to give the title compound as an oil (4.1 g, 97%). 1H NMR (400 MHz, CDCl3) δ ppm 0.06-0.09 (m, 6H), 0.92 (s, 9H), 1.50-1.57 (m, 2H), 1.74-1.89 (m, 2H), 1.93-2.03 (m, 2H), 4.21-4.23 (m, 1H), 5.61-5.64 (m, 1H), 5.72-5.76 (m, 1H).

reactant | Pyridine | 60 mmol, 4.74 g | N1=CC=CC=C1 | C5H5N
reactant | tert-butyldimethylsilyl chloride | 32 mmol, 4.83 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | cyclohex-2-enol | 20 mmol, 1.96 g | C1(C=CCCC1)O | C6H10O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl(cyclohex-2-enyloxy)dimethylsilane | 4.1 g, 97% | C(C)(C)(C)[Si](C)(C)OC1C=CCCC1 | C12H24OSi
